US05852192
(6) 1-(4-amidino-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one hydrochloride
Melting point: from 260° C. (decomp.) The product was also obtained by reacting 1-(4-amidino-phenyl)-3-[4-(2-carboxy-ethyl)-phenyl]-imidazolidin-2-one with methanolic hydrochloric acid. Rf value: 0.49 (Reversed Phase Plate RP8; 10% sodium chloride solution/methanol=4:6)

reactant | 1-(4-amidino-phenyl)-3-[4-(2-carboxy-ethyl)-phenyl]-imidazolidin-2-one | C(N)(=N)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)O)=O | C19H20N4O3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
reactant | methanol | CO | CH4O
product | 1-(4-amidino-phenyl)-3-[4-(2-methoxycarbonyl-ethyl)-phenyl]-imidazolidin-2-one hydrochloride | Cl.C(N)(=N)C1=CC=C(C=C1)N1C(N(CC1)C1=CC=C(C=C1)CCC(=O)OC)=O | InChI=1S/C20H22N4O3.ClH/c1-27-18(25)11-4-14-2-7-16(8-3-14)23-12-13-24(20(23)26)17-9-5-15(6-10-17)19(21)22;/h2-3,5-10H,4,11-13H2,1H3,(H3,21,22);1H
